US04788195
[4-[[4-(4-Pyridinyl)-2-pyrimidinyl]amino]phenoxy]acetic acid
An 800 mg portion of [4-[[4-(4-pyridinyl)-2-pyrimidinyl]amino]phenoxy]acetic acid, ethyl ester was dissolved in 100 ml of ethanol and 10.7 ml of 1N sodium hydroxide was added. The mixture was stirred for 2 hours, the solvent removed and the residue dissolved in 5 ml of water. The pH was adjusted to 7.0 with 1N hydrochloric acid and the solid collected, washed with water and dried. The solid was recrystallized from dimethylformamide-ethanol, giving 600 mg of the desired product as yellow crystals, mp 308°-310° C.

reactant | [4-[[4-(4-pyridinyl)-2-pyrimidinyl]amino]phenoxy]acetic acid, ethyl ester | N1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(OCC(=O)OCC)C=C1 | C19H18N4O3
reactant | sodium hydroxide | 1N, 10.7 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | [4-[[4-(4-Pyridinyl)-2-pyrimidinyl]amino]phenoxy]acetic acid | 600 mg | N1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(OCC(=O)O)C=C1 | C17H14N4O3
